US09108957B2
A mixture of diastereopure 7-(4-bromo-phenyl)-4-((R)-1-phenyl-ethyl)-[1,4]oxazepane (diastereomer type A) (2.0 g, 5.6 mmol), zinc(II) cyanide (0.40 g, 3.4 mmol), tris(dibenzylideneacetane)dipalladium (0.46 g, 0.50 mmol), diphenylphosphinoferrocene (0.67 g, 1.2 mmol) and water (0.02 mL, 1.0 mmol) in dimethylformamide (10 mL) was prepared at room temperature under nitrogen atmosphere. The mixture was heated to 120° C. and stirred for 8 hours. After cooling to room temperature, the reaction was quenched by the addition of 2N ammonia aqueous solution and diluted with ethyl acetate. The organic layer was separated and dried over anhydrous sodium sulfate. Concentration of the solution followed by purification of the residue by flash column chromatography on silica gel (hexane/ethyl acetate=90/10 to 60/40 as eluants) was yield 4-[4-((R)-1-phenyl-ethyl)-[1,4]oxazepan-7-yl]-benzonitrile (diastereomer type A) (0.68 g, 2.2 mmol, 40%) as brown oil.

reactant | 7-(4-bromo-phenyl)-4-((R)-1-phenyl-ethyl)-[1,4]oxazepane | BrC1=CC=C(C=C1)C1CCN(CCO1)[C@H](C)C1=CC=CC=C1 | C19H22BrNO
reactant | water | 1.0 mmol, 0.02 mL | O | H2O
reactant | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
catalyst | zinc(II) cyanide | 3.4 mmol, 0.40 g | [C-]#N.[Zn+2].[C-]#N
catalyst | diphenylphosphinoferrocene | 1.2 mmol, 0.67 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
product | 4-[4-((R)-1-phenyl-ethyl)-[1,4]oxazepan-7-yl]-benzonitrile | C1(=CC=CC=C1)[C@@H](C)N1CCOC(CC1)C1=CC=C(C#N)C=C1 | C20H22N2O
